US07335799B2
Under nitrogen atmosphere, sodium borohydride (0.06 g, 1.6 mmol) was added to a stirred solution of 8-oxo-2,2,14,14-tetramethylpentadecanedioic acid (1.18 g, 3.4 mmol) in methanol (50 mL) at 0° C. The reaction progress was monitored by thin layer chromatography (silica; hexanes:ethyl acetate=50:50). Additional sodium borohydride was added after 1 h (0.48 g, 13 mmol). After 8 h, the reaction mixture was hydrolyzed with water (50 mL) and acidified with concentrated hydrochloric acid (3 mL) to pH 1. The solution was diluted with water (50 mL) and extracted with dichloromethane (4×25 mL). The combined organic layers were washed with saturated sodium chloride solution (2×30 mL), dried over magnesium sulfate, concentrated in vacuo, and dried in high vacuo to give 8-hydroxy-2,2,14,14-tetramethylpentadecanedioic acid (0.7 g, 60%) as a very viscous oil. 1H NMR (300 MHz, CDCl3/TMS): δ (ppm): 7.42 (br. s, 3H), 3.59 (br. s, 1H), 1.65-1.00 (m, 20H), 1.18 (s, 12H). 13C NMR (75 MHz, CDCl3/TMS): δ (ppm): 184.5, 71.8, 42.1, 40.5, 37.0, 29.8, 25.2, 25.1, 24.9, 24.8. HRMS (FAB): Calcd. for C19H37O5 (MH+): 345.2635, found: 345.2646. HPLC: 83.8% purity.

reactant | sodium borohydride | 1.6 mmol, 0.06 g | [BH4-].[Na+]
reactant | 8-oxo-2,2,14,14-tetramethylpentadecanedioic acid | 3.4 mmol, 1.18 g | O=C(CCCCCC(C(=O)O)(C)C)CCCCCC(C(=O)O)(C)C | C19H34O5
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 3 mL | Cl | ClH
solvent | methanol | 50 mL | CO | CH4O
solvent | water | 50 mL | O | H2O
solvent | water | 50 mL | O | H2O
product | 8-hydroxy-2,2,14,14-tetramethylpentadecanedioic acid | 0.7 g, 60% | OC(CCCCCC(C(=O)O)(C)C)CCCCCC(C(=O)O)(C)C | C19H36O5
